Trabalho 1 alinea 5
* título

.options savecurrents

* variables
.INCLUDE ngspice_data_3.txt

.param f = 1k


*Descrição do circuito
va 0 na 0V ; auxiliar voltage source

vs 1 0 dc 0 ac 1 SIN(0 1)

R1 1 2 {R1}
R2 2 3 {R2}
R3 2 5 {R3}
R4 0 5 {R4}
R5 5 6 {R5}
R6 na 7 {R6}
R7 7 8 {R7}

C 6 8 {C1}

Gb 6 3 2 5 {Kb} ; current source
Hd 5 8 va {Kd} ; voltage source

*Initial conditions
.ic v(6)= {V6in}
.ic v(8)= {V8in}

*control
.control 


*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/07

ac dec 10 0.1 1MEG

hardcopy trans_alinea5.ps vdb(6,8) vdb(1) vdb(6)
echo trans_alinea5_FIG

quit
.endc

.end